US03937738
Preparation of 2-Trifluoromethylthio-2-methylpropionaldehyde
A mixture of isobutyraldehyde (0.25 mole), ethanol (0.4 g) and dichloromethane (75 ml) was placed in a three-necked flask fitted with a gas inlet tube, a Dry Ice condenser and a gas outlet tube connected to a gas trap cooled to -78°C. Trifluoromethanesulfenyl chloride (0.22 mole) was added to the cold solution which was maintained under a nitrogen atmosphere. (Caution: It should be noted that trifluoromethanesulfenyl chloride is a highly hazardous material which must be handled with care to avoid inhalation or contact with the skin.) The reaction mixture was then allowed to warm to about 25°C and stirred magnetically until the orange colored solution had become nearly colorless (about 6 hours). The reaction mixture was then distilled. The distillation assembly was connected to a -78°C gas trap to trap any unreacted trifluoromethylsulfenyl chloride. The 2-trifluoromethylthio-2-methylpropionaldehyde, b.p. 108°-116°C was identified by spectral and elemental analyses of a purified sample, b.p. 116°C.

reactant | isobutyraldehyde | 0.25 mole | C(C(C)C)=O | C4H8O
reactant | ethanol | 0.4 g | C(C)O | C2H6O
reactant | Trifluoromethanesulfenyl chloride | 0.22 mole | FC(SCl)(F)F | CClF3S
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 2-Trifluoromethylthio-2-methylpropionaldehyde | FC(SC(C=O)(C)C)(F)F | C5H7F3OS
